US06884813B2
Step 4. Preparation of N-[[(5S)-3-[4-(3,4-dihydro-1,1-dioxido-2H-thiopyran-4-yl)-3,5-difluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide.
Trifluoroacetic anhydride (2.24 ml, 15.8 mmol) was added dropwise at room temperature to a solution of N-[[(5S)-3-[3,5-difluoro-4-(tetrahydro-1-oxido-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (2.04 g, 5.28 mmol and N-methylmorpholine (2.90 ml, 26.4 mmol) in dichloromethane (50 ml). The reaction mixture was stirred overnight at room temperature and then evaporated to dryness. The resulting crude N-({(5S)-3-[4-(3,4-dihydro-2H-thiopyran-4-yl)-3,5-difluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide (1.95 g) was dissolved in tetrahydrofuran (100 ml) and peracetic acid (5.6 ml of a 32% solution in acetic acid, 26.4 mmol) added dropwise at 0° C. The reaction mixture was allowed to warm to room temperature, stirred overnight, and then evaporated to dryness. The residue was purified by flash column chromatography (ethyl acetate) to give white solid (1.80 g, 85%)

reactant | Trifluoroacetic anhydride | 15.8 mmol, 2.24 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-[[(5S)-3-[3,5-difluoro-4-(tetrahydro-1-oxido-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | FC=1C=C(C=C(C1C1CCS(CC1)=O)F)N1C(O[C@H](C1)CNC(C)=O)=O | C17H20F2N2O4S
reactant | N-methylmorpholine | 26.4 mmol, 2.90 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[[(5S)-3-[4-(3,4-dihydro-1,1-dioxido-2H-thiopyran-4-yl)-3,5-difluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 1.80 g, 85% | O=S1(CCC(C=C1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC(C)=O)=O)F)=O | C17H18F2N2O5S
